US08383932B2
Synthesis of 3-(anthracen-9-yl)-5-(pyridin-3-yl)benzaldehyde
7.9 g (21.9 mmol) of 3-(anthracen-9-yl)-5-bromobenzaldehyde, 5 g (24.4 mmol of pyridine-3-boronic acid neopentylglycol ester, 0.85 g (3 mol %) of tetrakis(triphenylphosphine) palladium (0), and 5.17 g (48.8 mmol) of sodium carbonate were dissolved in 90 ml of tetrahydrofuran/H2O in a volume ratio of 2/1. The solution was reacted at 80° C. for 12 hours. The acquired reactant was extracted with ethyl acetate and treated under reduced pressure to remove the solvent. The extract was separated through a column, obtaining 7.24 g (Y=91%) of a white solid.

reactant | 3-(anthracen-9-yl)-5-bromobenzaldehyde | 21.9 mmol, 7.9 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=1C=C(C=O)C=C(C1)Br | C21H13BrO
reactant | pyridine-3-boronic acid neopentylglycol ester | 24.4 mmol | B1(OCC(CO1)(C)C)C2=CN=CC=C2 | C10H14BNO2
reactant | sodium carbonate | 48.8 mmol, 5.17 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran H2O | 90 ml | O1CCCC1.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.85 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(anthracen-9-yl)-5-(pyridin-3-yl)benzaldehyde | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=1C=C(C=O)C=C(C1)C=1C=NC=CC1 | C26H17NO
